US03998844
A solution of 3.6 g of ethyl 1,4-dimethylpyrrole-2-acetate and 8.3 g of 3,4-dichlorobenzoyl chloride in 20 ml of xylene is refluxed for 40 min and then chilled. The separated solid is collected by filtration and dried to give 5.6 g (80%) of ethyl 5-(3,4-dichlorobenzoyl)-1,4-dimethylpyrrole-2-acetate as white crystals, m.p. 92°-93.5° C.

reactant | ethyl 1,4-dimethylpyrrole-2-acetate | 3.6 g | CN1C(=CC(=C1)C)CC(=O)OCC | C10H15NO2
reactant | 3,4-dichlorobenzoyl chloride | 8.3 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | ethyl 5-(3,4-dichlorobenzoyl)-1,4-dimethylpyrrole-2-acetate | 5.6 g, 80% | ClC=1C=C(C(=O)C2=C(C=C(N2C)CC(=O)OCC)C)C=CC1Cl | C17H17Cl2NO3
